### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Multilinear): basis for multilinear maps

### PR DESCRIPTION
**Pull request by morrison-daniel**
Adds a basis for MulilinearMap given bases for the domain and codomain.

This PR builds upon work started in #25141 toward #11155.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/DFinsupp/PiTensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+
+## Main results
+
+* `PiTensorProduct.dfinsupp`: the linear equivalence between a `PiTensorProduct` of `DFinsupp`s
+  and the `DFinsupp` of the `PiTensorProduct`s.
+-/
+
+@[expose] public section
+
+suppress_compilation
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/DFinsupp/PiTensorProduct.lean]: Happily compiler improvements mean this is no longer necessary:
```suggestion
```

File: Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+
+## Main results
+
+* `PiTensorProduct.directSum`: the linear equivalence between a `PiTensorProduct` of `DirectSum`s
+  and the `DirectSum` of the `PiTensorProduct`s.
+-/
+
+@[expose] public section
+
+suppress_compilation
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean]: Likewise here, we no longer need this:
```suggestion
```

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 3]
```diff
@@ -101,8 +101,9 @@ namespace MultilinearMap
 section Semiring
 
 variable [Semiring R] [∀ i, AddCommMonoid (M i)] [∀ i, AddCommMonoid (M₁ i)] [AddCommMonoid M₂]
-  [AddCommMonoid M₃] [AddCommMonoid M'] [∀ i, Module R (M i)] [∀ i, Module R (M₁ i)] [Module R M₂]
-  [Module R M₃] [Module R M'] (f f' : MultilinearMap R M₁ M₂)
+  [AddCommMonoid M₃] [AddCommMonoid M₄] [AddCommMonoid M']
+  [∀ i, Module R (M i)] [∀ i, Module R (M₁ i)]
+  [Module R M₂] [Module R M₃] [Module R M₄] [Module R M'] (f f' : MultilinearMap R M₁ M₂)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: These changes just seem to introduce typeclasses that are not used below. Can you revert them?

File: Mathlib/LinearAlgebra/Multilinear/Basic.lean [hunk 4]
```diff
@@ -763,9 +764,8 @@ end MultilinearMap
 
 namespace LinearMap
 
-variable [Semiring R]
-variable [∀ i, AddCommMonoid (M₁ i)] [∀ i, AddCommMonoid (M₁' i)]
-  [AddCommMonoid M₂] [AddCommMonoid M₃] [AddCommMonoid M₄] [AddCommMonoid M']
+variable [Semiring R] [∀ i, AddCommMonoid (M₁ i)] [∀ i, AddCommMonoid (M₁' i)]
+variable [AddCommMonoid M₂] [AddCommMonoid M₃] [AddCommMonoid M₄] [AddCommMonoid M']
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Basic.lean]: This looks like just whitespace is changing: can you revert this change?

File: Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean [hunk 5]
```diff
@@ -6,6 +6,7 @@ Authors: Eric Wieser, Sophie Morel
 module
 
 public import Mathlib.Data.Fintype.Quotient
+public import Mathlib.Data.Finsupp.ToDFinsupp
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean]: I don't think this is necessary:
```suggestion
```

**Review by ocfnash — COMMENTED** [review]
There is a lot of good material here but this is quite difficult to review because several independent changes are being made.

However I think there is a clear path forward simply by splitting up the PR. I suggest starting by opening a new PR which contains the minimum subset of this PR necessary to add `Basis.multilinearMap` (and its API) and then we iterate to add the next piece.

What do you think?

File: Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean [hunk 6]
```diff
@@ -196,8 +199,122 @@ def dfinsuppFamilyₗ :
...
 
 end dfinsuppFamily
 
+section freeDFinsuppEquiv
+
+variable [DecidableEq ι] [Fintype ι] [CommSemiring R]
+variable {M : ∀ i, κ i → Type uM} {N : (Π i, κ i) → Type uN}
+variable [∀ i k, AddCommMonoid (M i k)] [∀ p, AddCommMonoid (N p)]
+variable [∀ i k, Module R (M i k)] [∀ p, Module R (N p)]
+variable {ι'} [∀ i, Fintype (κ i)] [∀ i, DecidableEq (κ i)]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean]: Most of these are unused. There's also no need to handle universes manually:
```suggestion
variable {ι' : Type*} [DecidableEq ι] [Fintype ι] [CommSemiring R]
  [∀ i, Fintype (κ i)] [∀ i, DecidableEq (κ i)]
```

File: Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean [hunk 7]
```diff
@@ -196,8 +199,122 @@ def dfinsuppFamilyₗ :
...
+the domain and `ι'` on the codomain and the dependent, finitely supported maps from
+`(Π i, κ i) × ι'` into `R`.
+-/
+def freeDFinsuppEquiv :
+  (Π₀ (_ : (Π i, κ i) × ι'), R) ≃ₗ[R] MultilinearMap R (fun i => Π₀ _ : κ i, R) (Π₀ _ : ι', R) :=
+    (DFinsupp.domLCongr (M := fun _ => R) (Equiv.sigmaEquivProd _ _).symm) ≪≫ₗ
+    (DFinsupp.sigmaCurryLEquiv (M := fun _ _ => R)) ≪≫ₗ
+    DFinsupp.linearEquivFunOnFintype ≪≫ₗ
+    LinearEquiv.piCongrRight (fun _ => MultilinearMap.piRingEquiv (ι := ι)) ≪≫ₗ
+    fromDFinsuppEquiv κ R (M := fun _ _ => R)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean]: Statements get four spaces, and proofs get two:
```suggestion
    (Π₀ (_ : (Π i, κ i) × ι'), R) ≃ₗ[R] MultilinearMap R (fun i => Π₀ _ : κ i, R) (Π₀ _ : ι', R) :=
  (DFinsupp.domLCongr (M := fun _ => R) (Equiv.sigmaEquivProd _ _).symm) ≪≫ₗ
  (DFinsupp.sigmaCurryLEquiv (M := fun _ _ => R)) ≪≫ₗ
  DFinsupp.linearEquivFunOnFintype ≪≫ₗ
  LinearEquiv.piCongrRight (fun _ => MultilinearMap.piRingEquiv (ι := ι)) ≪≫ₗ
  fromDFinsuppEquiv κ R (M := fun _ _ => R)
```

File: Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean [hunk 8]
```diff
@@ -196,8 +199,122 @@ def dfinsuppFamilyₗ :
...
+
+theorem freeDFinsuppEquiv_def (f : Π₀ (_ : (Π i, κ i) × ι'), R) : freeDFinsuppEquiv f =
+  fromDFinsuppEquiv κ R (M := fun _ _ => R) (
+  LinearEquiv.piCongrRight (fun _ => MultilinearMap.piRingEquiv (ι := ι)) (
+  DFinsupp.linearEquivFunOnFintype (R := R) (
+  (DFinsupp.sigmaCurryLEquiv (R := R) (M := fun _ _ => R)) (
+  (DFinsupp.domLCongr (R := R) (M := fun _ => R) (Equiv.sigmaEquivProd _ _).symm) f)))) := rfl
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean]:
```suggestion
theorem freeDFinsuppEquiv_def (f : Π₀ (_ : (Π i, κ i) × ι'), R) :
    freeDFinsuppEquiv f =
      fromDFinsuppEquiv κ R
      (LinearEquiv.piCongrRight (fun _ => MultilinearMap.piRingEquiv) <|
      DFinsupp.linearEquivFunOnFintype (R := R) <|
      DFinsupp.sigmaCurryLEquiv (R := R) <|
      (DFinsupp.domLCongr (R := R) (Equiv.sigmaEquivProd _ _).symm) f) :=
  rfl
```

File: Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean [hunk 9]
```diff
@@ -196,8 +199,122 @@ def dfinsuppFamilyₗ :
...
+  obtain ⟨fst, snd⟩ := p
+  simp_all only [Prod.mk.injEq]
+  by_cases h : snd = i'
+  · subst h
+    simp_all only [and_true, Finset.sum_ite_eq, Fintype.mem_piFinset, DFinsupp.mem_support_toFun,
+      ne_eq, ↓reduceIte, ite_eq_left_iff, not_forall, Decidable.not_not, forall_exists_index]
+    intro i h
+    symm
+    exact Finset.prod_eq_zero (Finset.mem_univ i) h
+  · simp_all only [and_false, ↓reduceIte, Finset.sum_const_zero]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean]:
```suggestion
    (x : Π i, Π₀ _ : κ i, R) :
    freeDFinsuppEquiv (.single p r) x = r • .single p.2 ((∏ i, (x i) (p.1 i))) := by
  classical
  conv_lhs => rw [← mul_one r, ← smul_eq_mul, DFinsupp.single_smul, map_smul, smul_apply]
  congr
  ext i
  obtain ⟨p, j⟩ := p
  rcases eq_or_ne j i with rfl | h
  · suffices ∀ (l : ι), (x l) (p l) = 0 → 0 = ∏ i, (x i) (p i) by
      simpa [freeDFinsuppEquiv_def, MultilinearMap.piRingEquiv, DFinsupp.sigmaCurryEquiv,
        fromDFinsuppEquiv_apply]
    exact fun i h ↦ (Finset.prod_eq_zero (Finset.mem_univ i) h).symm
  · simp [freeDFinsuppEquiv_def, MultilinearMap.piRingEquiv, DFinsupp.sigmaCurryEquiv,
      fromDFinsuppEquiv_apply, h]
```

File: Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean [hunk 10]
```diff
@@ -196,8 +199,122 @@ def dfinsuppFamilyₗ :
...
+  freeDFinsuppEquiv f x = ∑ p, f p • DFinsupp.single p.2 ((∏ i, (x i) (p.1 i))) := by
+  apply DFinsupp.induction f
+  · rw [LinearEquiv.map_zero]
+    simp
+  · intro ⟨k, i'⟩ r f hf r_ne_zero hfx
+    simp only [map_add, add_apply, DFinsupp.coe_add, Pi.add_apply, DFinsupp.single_apply,
+      eq_rec_constant, dite_eq_ite]
+    simp_rw [freeDFinsuppEquiv_single]
+    simp only [add_smul, Finset.sum_add_distrib, ite_smul, zero_smul,
+      Finset.sum_ite_eq, Finset.mem_univ, ↓reduceIte, hfx]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/DFinsupp.lean]:
```suggestion
    (f : Π₀ (_ : (Π i, κ i) × ι'), R) (x : Π i, Π₀ _ : κ i, R) :
    freeDFinsuppEquiv f x = ∑ p, f p • .single p.2 ((∏ i, (x i) (p.1 i))) := by
  apply DFinsupp.induction f
  · simp
  · rintro p r f - - hfx
    simp [Finset.sum_add_distrib, add_smul, hfx]
```

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 11]
```diff
@@ -0,0 +1,80 @@
...
+* `freeFinsuppEquiv` is an equivalence of multilinear maps over free modules with finitely
+  supported maps.
+
+-/
+
+@[expose] public section
+
+universe uι uκ uS uR uM uN
+variable {ι : Type uι} {κ : ι → Type uκ}
+variable {S : Type uS} {R : Type uR}
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]: No need to handle universes explicitly and we might as well declare `ι'` while we're here:
```suggestion
variable {ι ι' S R : Type*} {κ : ι → Type*}
```

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 12]
```diff
@@ -0,0 +1,80 @@
...
+
+namespace MultilinearMap
+
+section freeFinsuppEquiv
+
+variable [DecidableEq ι] [Fintype ι] [CommSemiring R] [DecidableEq R]
+variable {M : ∀ i, κ i → Type uM} {N : (Π i, κ i) → Type uN}
+variable [∀ i k, AddCommMonoid (M i k)] [∀ p, AddCommMonoid (N p)]
+variable [∀ i k, Module R (M i k)] [∀ p, Module R (N p)]
+variable {ι'} [DecidableEq ι'] [∀ i, Fintype (κ i)] [∀ i, DecidableEq (κ i)]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]: Most of these are unused:
```suggestion
variable [DecidableEq ι] [Fintype ι] [CommSemiring R] [DecidableEq R]
  [DecidableEq ι'] [∀ i, Fintype (κ i)] [∀ i, DecidableEq (κ i)]
```

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 13]
```diff
@@ -0,0 +1,80 @@
...
+
+/--
+The linear equivalence of multilinear maps on free modules over `R` indexed by `fun i => κ i` on
+the domain and `ι'` on the codomain and the finitely supported maps from
+`(Π i, κ i) × ι'` into `R`.
+
+This is the `Finsupp` version of `MultilinearMap.freeDFinsuppEquiv`.
+-/
+noncomputable def freeFinsuppEquiv :
+  (((Π i, κ i) × ι') →₀ R) ≃ₗ[R] MultilinearMap R (fun i => (κ i →₀ R)) (ι' →₀ R) :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]:
```suggestion
    (((Π i, κ i) × ι') →₀ R) ≃ₗ[R] MultilinearMap R (fun i => (κ i →₀ R)) (ι' →₀ R) :=
```

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 14]
```diff
@@ -0,0 +1,80 @@
...
+  (finsuppLequivDFinsupp R) ≪≫ₗ freeDFinsuppEquiv ≪≫ₗ
+  ((finsuppLequivDFinsupp R).multilinearMapCongrRight R).symm ≪≫ₗ
+  LinearEquiv.multilinearMapCongrLeft (fun _ => finsuppLequivDFinsupp R)
+
+theorem freeFinsuppEquiv_def (f : ((Π i, κ i) × ι') →₀ R) :
+  freeFinsuppEquiv f = LinearEquiv.multilinearMapCongrLeft (fun _ => finsuppLequivDFinsupp R) (
+  ((finsuppLequivDFinsupp R).multilinearMapCongrRight R).symm (
+  freeDFinsuppEquiv ((finsuppLequivDFinsupp R) f))) := rfl
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]:
```suggestion
    freeFinsuppEquiv f =
      LinearEquiv.multilinearMapCongrLeft (fun _ => finsuppLequivDFinsupp R)
      (((finsuppLequivDFinsupp R).multilinearMapCongrRight R).symm <|
      freeDFinsuppEquiv (finsuppLequivDFinsupp R f)) :=
  rfl
```

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 15]
```diff
@@ -0,0 +1,80 @@
...
+
+/--
+When `freeFinsuppEquiv` is applied to a map with a single value the resulting multilinear
+map sends inputs to a single value in the codomain, taking a product over images from each
+component of the domain.
+-/
+@[simp]
+theorem freeFinsuppEquiv_single (p : ((Π i, κ i) × ι')) (r : R)
+  (x : Π i, (κ i →₀ R)) : freeFinsuppEquiv (Finsupp.single p r) x =
+  r • Finsupp.single p.2 ((∏ i, (x i) (p.1 i))) := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]:
```suggestion
theorem freeFinsuppEquiv_single (p : ((Π i, κ i) × ι')) (r : R) (x : Π i, (κ i →₀ R)) :
    freeFinsuppEquiv (Finsupp.single p r) x = r • Finsupp.single p.2 ((∏ i, (x i) (p.1 i))) := by
```

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 16]
```diff
@@ -0,0 +1,80 @@
...
+  freeFinsuppEquiv f x = ∑ p, f p • Finsupp.single p.2 ((∏ i, (x i) (p.1 i))) := by
+  induction f using Finsupp.induction_linear with
+  | zero =>
+    rw [LinearEquiv.map_zero]
+    simp
+  | add f g hf hg =>
+    simp [hf, hg, add_mul, Finset.sum_add_distrib]
+  | single p r =>
+    simp only [freeFinsuppEquiv_single, Finsupp.smul_single, smul_eq_mul, Finsupp.single_apply,
+      ite_smul, zero_smul, Finset.sum_ite_eq, Finset.mem_univ, ↓reduceIte]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]:
```suggestion
  | zero => simp
  | add f g hf hg => simp [hf, hg, add_mul, Finset.sum_add_distrib]
  | single p r => simp [Finsupp.single_apply]
```

File: Mathlib/LinearAlgebra/Multilinear/Basis.lean [hunk 17]
```diff
@@ -39,3 +40,40 @@ theorem Module.Basis.ext_multilinear [Finite ι] {f g : MultilinearMap R M N} {
...
+
+open Module in
+/-- The elements of the basis are the maps which scale `b' ii.2` by the
+product of all the `ii.1 ·` coordinates along `b i`. -/
+theorem _root_.Basis.multilinearMap_apply_apply (b : ∀ i, Basis (κ i) R (M i)) (b' : Basis ι' R N)
+    (ii : (Π i, κ i) × ι') (v) :
+    Basis.multilinearMap b b' ii v = (∏ i, (b i).repr (v i) (ii.1 i)) • b' ii.2 := by
+  simp [Basis.multilinearMap_apply]
+
+end Basis
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Basis.lean]: I suggest the following changes:

- Use a `namespace` instead of a `section` + manual naming
- Tidy up the `variable`s: (several are redundant as already in scope, no need to handle universes)
- Drop all the `DecidableEq` arguments since the statement of `multilinearMap` does not need them
- Use `Finite` instead of `Fintype` for the statement of `multilinearMap` and use `Fintype` only where it is necessary for statements.

The price is that the proof of `multilinearMap_apply` is slightly less trivial but it is a price well worth paying if we can stem the flow of the silly decidability stuff:
```suggestion
namespace Basis

open Module

variable {κ : ι → Type*} (b : (i : ι) → Basis (κ i) R (M i))
  {ι' N : Type*} [AddCommMonoid N] [Module R N] (b' : Basis ι' R N)

open scoped Classical in
/-- A basis for multilinear maps given a finite basis on each domain and a basis on the codomain. -/
noncomputable def multilinearMap [Finite ι] [∀ i, Finite (κ i)] :
    Basis ((Π i, κ i) × ι') R (MultilinearMap R M N) where
  repr :=
    have : Fintype ι := Fintype.ofFinite _
    have (i : ι) : Fintype (κ i) := Fintype.ofFinite _
    LinearEquiv.multilinearMapCongrLeft (fun i => (b i).repr.symm) ≪≫ₗ
      (b'.repr).multilinearMapCongrRight R ≪≫ₗ freeFinsuppEquiv.symm

variable [Fintype ι] [∀ i, Fintype (κ i)]

theorem multilinearMap_apply (i : (Π i, κ i) × ι') :
    Basis.multilinearMap b b' i =
      ((LinearMap.id (M := R)).smulRight (b' i.2)).compMultilinearMap
        (MultilinearMap.mkPiRing R ι 1 |>.compLinearMap fun i' => (b i').coord (i.1 i')) := by
  ext x
  simp only [multilinearMap, Basis.coe_ofRepr, LinearEquiv.trans_symm, LinearEquiv.symm_symm,
    LinearEquiv.trans_apply, LinearEquiv.multilinearMapCongrRight_symm_apply, Basis.coe_repr_symm,
    LinearEquiv.multilinearMapCongrLeft_symm_apply, compLinearMap_apply, LinearEquiv.coe_coe,
    LinearMap.compMultilinearMap_apply, freeFinsuppEquiv_single, one_smul,
    Finsupp.linearCombination_single, Basis.coord_apply, mkPiRing_apply, smul_eq_mul, mul_one,
    LinearMap.coe_smulRight, LinearMap.id_coe, id_eq]
  convert rfl

/-- The elements of the basis are the maps which scale `b' ii.2` by the
product of all the `ii.1 ·` coordinates along `b i`. -/
theorem multilinearMap_apply_apply (ii : (Π i, κ i) × ι') (v) :
    Basis.multilinearMap b b' ii v = (∏ i, (b i).repr (v i) (ii.1 i)) • b' ii.2 := by
  simp [Basis.multilinearMap_apply]

end Basis
```

**Comment by morrison-daniel** [comment]
Included review changes and merged master.

File: Mathlib/LinearAlgebra/Multilinear/Finsupp.lean [hunk 18]
```diff
@@ -0,0 +1,71 @@
...
+## Main definitions
+
+* `freeFinsuppEquiv` is an equivalence of multilinear maps over free modules with finitely
+  supported maps.
+
+-/
+
+@[expose] public section
+
+variable {ι ι' S R : Type*} {κ : ι → Type*}
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Multilinear/Finsupp.lean]:
```suggestion
variable {ι ι' R : Type*} {κ : ι → Type*}
```

**Review by ocfnash — APPROVED** [review]
Thanks very much for all your work here!
